US08791108B2
To a mixture of (S,E)-6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-5-methyl-7-(4-methylpent-1-en-1-yl)pyrazolo[1,5-a]pyrimidine-2-carboxylic acid (30 mg, 0.072 mmol) and 3,3-dimethylbutan-1-amine (14.54 mg, 0.144 mmol) in DMF (1.5 mL) was added DIEA (0.063 mL, 0.359 mmol), HATU (54.6 mg, 0.144 mmol) and DMAP (1.756 mg, 0.014 mmol) and the resulting mixture was stirred at room temp for 16 h. At this point LCMS indicated completion of reaction. Water was then added and the mixture was extracted with ether (25 mL), washed with brine (15 mL), dried (Na2SO4), filtered and concentrated. Crude was then treated with 1N NaOH (0.216 mL, 0.216 mmol) in MeOH (1.500 mL) at 60° C. for 5 h. Mixture was then cooled and purified by prep-HPLC to afford (S,E)-2-(tert-butoxy)-2-(2-((3,3-dimethylbutyl)carbamoyl)-5-methyl-7-(4-methylpent-1-en-1-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetic acid (3.7 mg, 7.44 μmol, 10.35% yield). 1H NMR (500 MHz, DMSO-d6) δ 8.29 (t, J=6.0 Hz, 1H), 7.05 (d, J=14.0 Hz, 1H), 6.88 (s, 1H), 5.38 (s, 1H), 3.36-3.29 (m, 2H), 2.62 (s, 3H), 2.40-2.27 (m, 2H), 1.86 (dt, J=13.2, 6.7 Hz, 1H), 1.52-1.44 (m, 2H), 1.08 (s, 9H), 1.00 (d, J=3.7 Hz, 3H), 1.02 (d, J=3.7 Hz, 3H), 0.95 (s, 19H). LCMS (M+H)=473.4.

reactant | (S,E)-6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-5-methyl-7-(4-methylpent-1-en-1-yl)pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 0.072 mmol, 30 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1\C=C\CC(C)C)N=C(C2)C(=O)O)C | C22H31N3O5
reactant | 3,3-dimethylbutan-1-amine | 0.144 mmol, 14.54 mg | CC(CCN)(C)C | C6H15N
reactant | DIEA | 0.359 mmol, 0.063 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.144 mmol, 54.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaOH | 0.216 mmol, 1N, 0.216 mL | [OH-].[Na+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.014 mmol, 1.756 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeOH | 1.500 mL | CO | CH4O
solvent | Water | O | H2O
product | (S,E)-2-(tert-butoxy)-2-(2-((3,3-dimethylbutyl)carbamoyl)-5-methyl-7-(4-methylpent-1-en-1-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 7.44 μmol, 3.7 mg, 10.35% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1\C=C\CC(C)C)N=C(C2)C(NCCC(C)(C)C)=O)C | C26H40N4O4
